US06380235B1
1-Benzyl-6-(3-nitrophenyl)-1,3-dihydro-2H-benzimidazole-2-thione
Prepared according to the procedure for Example 24 from 1-benzyl-6-(3-nitrophenyl)-1,3-dihydro-2H-benzimidazole-2-one (0.1 g, 0.29 mmol) and Lawesson's reagent (0.13 g, 0.32 mmol). A yellow solid (0.025 g, 24%): mp 244-245° C.; 1H-NMR (DMSO-d6) δ13.08 (s, 1H), 8.43 (s, 1H), 8.20 (dd, 1H, J=8.2, 1.7 Hz), 8.12 (d, 1H, J=7.8 Hz), 7.72-7.78 (m, 2H), 7.62 (d, 1H, J=8.3 Hz), 7.25-7.43 (m, 6H), 5.62 (s, 2H); MS (ESI) m/z 360 [M−H]−; Anal. Calc. For C20H15ClN2S.0.2H2O: C, 65.81; H, 4.25; N, 11.51. Found: C, 65.56; H, 4.11; N, 11.29.

reactant | 1-benzyl-6-(3-nitrophenyl)-1,3-dihydro-2H-benzimidazole-2-one | 0.29 mmol, 0.1 g | C(C1=CC=CC=C1)N1C(NC2=C1C=C(C=C2)C2=CC(=CC=C2)[N+](=O)[O-])=O | C20H15N3O3
reactant | Lawesson's reagent | 0.32 mmol, 0.13 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 1-Benzyl-6-(3-nitrophenyl)-1,3-dihydro-2H-benzimidazole-2-thione | C(C1=CC=CC=C1)N1C(NC2=C1C=C(C=C2)C2=CC(=CC=C2)[N+](=O)[O-])=S | C20H15N3O2S
